US09353082B2
(R)—N-(quinuclidin-3-yl)-1H-benzo[d][1,2,3]triazole-1-carboxamide hydrochloride (monosubstituted triazole-1-carboxamide formation)
To a solution of 1H-benzo[d][1,2,3]triazole (0.238 g, 2 mmol) in dry DCM (5 ml) was added at 0-5° C. 20% solution of phosgene (1.052 ml, 2.000 mmol) in toluene. The mixture was stirred for 30 min at 20-25° C., cooled to 0-5° C., triethylamine (0.279 ml, 2.000 mmol) was added with stirring. The suspension was diluted with dry DCM (5 ml), solid (R)-quinuclidin-3-amine dihydrochloride (0.398 g, 2.000 mmol) and triethylamine (0.836 ml, 6.00 mmol) added at 0-5° C. The mixture was allowed to warm up to 20-25° C. during 30 min, diluted with 2-propanol, evaporated to dryness. The residue was distributed between water (15 ml) and DCM (15 ml), organic phase dried (MgSO4), concentrated, separated on a column (DCM-MeOH 9:1), fractions collected to give oil. The oil dissolved in ether with minimum of DCM, the solution acidified with 2M HCl in ether to pH 1-2, the precipitate collected, washed with ether, dried in vacuum at 45° C. Yield 0.12 g (19.5%).

reactant | 1H-benzo[d][1,2,3]triazole | 2 mmol, 0.238 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | phosgene | 2.000 mmol, 1.052 ml | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 2.000 mmol, 0.279 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-quinuclidin-3-amine dihydrochloride | 2.000 mmol, 0.398 g | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | triethylamine | 6.00 mmol, 0.836 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 2M | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | (R)—N-(quinuclidin-3-yl)-1H-benzo[d][1,2,3]triazole-1-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)N2N=NC1=C2C=CC=C1 | InChI=1S/C14H17N5O.ClH/c20-14(15-12-9-18-7-5-10(12)6-8-18)19-13-4-2-1-3-11(13)16-17-19;/h1-4,10,12H,5-9H2,(H,15,20);1H/t12-;/m0./s1
